US08471005B2
1,4-Dimethyl-3-(4-nitro-phenyl)-piperazin-2-one (445 mg, 1.78 mmol) was dissolved in ethanol (11 mL) and 10% Palladium on Carbon (50% Wet) (19.0 mg, 0.00893 mmol) was added. The reaction was hydrogenated at 50 psi. overnight and then filtered through celite to remove the catalyst. The reaction was then concentrated under reduced pressure to obtain 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one as a yellow foam (391 mg, 100%). LCMS (m/e) 220 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 7.12 (d, 2H, J=8.2 Hz), 6.64 (d, 2H, J=8.2 Hz), 3.76-3.66 (m, 1H), 3.68 (s, 1H), 3.26-3.18 (m, 1H), 3.05-2.97 (m, 1H), 2.97 (s, 3H), 2.71-2.61 (m, 1H), 2.19 (s, 3H).

reactant | 1,4-Dimethyl-3-(4-nitro-phenyl)-piperazin-2-one | 1.78 mmol, 445 mg | CN1C(C(N(CC1)C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H15N3O3
solvent | ethanol | 11 mL | C(C)O | C2H6O
catalyst | Palladium on Carbon | 0.00893 mmol, 19.0 mg | [Pd] | Pd
product | 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one | 391 mg, 100% | NC1=CC=C(C=C1)C1C(N(CCN1C)C)=O | C12H17N3O
